* LVS netlist generated with ICnet by 'bxk5113' on Sat Oct 19 2019 at 17:11:52

*
* Globals.
*
.global ground

*
* Component pathname : $PYXIS_SPT/digicdesign/mirroradder
*
.subckt mirroradder  Cout NS S A B Cin Vdd

        M18 N$72 B ground ground nmos l=0.13u w=0.52u m=1
        M17 N$74 A N$72 ground nmos l=0.13u w=0.52u m=1
        M8 N$92 Cin Vdd Vdd pmos l=0.13u w=1.04u m=1
        M7 N$92 B Vdd Vdd pmos l=0.13u w=1.04u m=1
        M6 N$92 A Vdd Vdd pmos l=0.13u w=1.04u m=1
        M5 N$74 A N$126 Vdd pmos l=0.13u w=1.04u m=1
        M4 N$126 B Vdd Vdd pmos l=0.13u w=1.04u m=1
        M2 N$128 B Vdd Vdd pmos l=0.13u w=1.04u m=1
        M1 N$128 A Vdd Vdd pmos l=0.13u w=1.04u m=1
        M10 N$96 B N$100 Vdd pmos l=0.13u w=1.56u m=1
        M13 S NS Vdd Vdd pmos l=0.13u w=0.52u m=1
        M12 NS N$74 N$92 Vdd pmos l=0.13u w=1.04u m=1
        M11 NS Cin N$96 Vdd pmos l=0.13u w=1.56u m=1
        M9 N$100 A Vdd Vdd pmos l=0.13u w=1.56u m=1
        M14 N$74 Cin N$139 ground nmos l=0.13u w=0.52u m=1
        M15 N$139 A ground ground nmos l=0.13u w=0.52u m=1
        M16 N$139 B ground ground nmos l=0.13u w=0.52u m=1
        M3 N$74 Cin N$128 Vdd pmos l=0.13u w=1.04u m=1
        M19 Cout N$74 Vdd Vdd pmos l=0.13u w=0.52u m=1
        M27 NS Cin N$83 ground nmos l=0.13u w=0.78u m=1
        M26 N$83 B N$81 ground nmos l=0.13u w=0.78u m=1
        M25 N$81 A ground ground nmos l=0.13u w=0.78u m=1
        M24 N$75 Cin ground ground nmos l=0.13u w=0.52u m=1
        M23 N$75 B ground ground nmos l=0.13u w=0.52u m=1
        M22 N$75 A ground ground nmos l=0.13u w=0.52u m=1
        M21 NS N$74 N$75 ground nmos l=0.13u w=0.52u m=1
        M20 Cout N$74 ground ground nmos l=0.13u w=0.26u m=1
        M28 S NS ground ground nmos l=0.13u w=0.26u m=1
.ends mirroradder

*
* Component pathname : $PYXIS_SPT/digicdesign/rippleadder
*
.subckt rippleadder  Cout NS0 NS1 NS2 NS3 S0 S1 S2 S3 A0 A1 A2 A3 B0 B1
+ B2 B3 Cin Vdd

        X_MIRRORADDER4 Cout NS3 S3 A3 B3 N$335 Vdd mirroradder
        X_MIRRORADDER3 N$335 NS2 S2 A2 B2 N$333 Vdd mirroradder
        X_MIRRORADDER2 N$333 NS1 S1 A1 B1 N$331 Vdd mirroradder
        X_MIRRORADDER1 N$331 NS0 S0 A0 B0 Cin Vdd mirroradder
.ends rippleadder

